US04250085
In a manner analogous to that described in Example 5(A)(iii), from the monobenzylamine salt of (1R)-1-[(N-benzyloxycarbonyl-L-norvalyl-L-alanyl)amino]-ethyl-phosphonic acid there was obtained (1R)-1-(L-norvalyl-L-alanylamino)ethylphosphonic acid of melting point 260°-261° C. (decomposition); [α]D20 =-46.5°; [α]36520 =-168° (c=0.51% in water).

reactant | monobenzylamine | C(C1=CC=CC=C1)N | C7H9N
reactant | (1R)-1-[(N-benzyloxycarbonyl-L-norvalyl-L-alanyl)amino]-ethyl-phosphonic acid | C(C1=CC=CC=C1)OC(=O)N[C@@H](CCC)C(=O)N[C@@H](C)C(=O)N[C@@H](C)P(O)(O)=O | C18H28N3O7P
product | (1R)-1-(L-norvalyl-L-alanylamino)ethylphosphonic acid | N[C@@H](CCC)C(=O)N[C@@H](C)C(=O)N[C@@H](C)P(O)(O)=O | C10H22N3O5P
